US06635657B1
A. N-(5-Chloropyridin-2-yl)-5-methoxycarbonyl-2-[(4-piperidinylmethyl)amino]benzamide
Using a similar procedure to that described in Example 47-C&D, 2-amino-N-(5-chloropyridin-2-yl)-5-methoxycarbonylbenzamide (3.23 g, 10.6 mmol), 1-tert-butoxycarbonylpiperidine-4-carboxaldehyde (2.50 g, 11.7 mmol), and borane trimethylamine complex (2.31 g, 31.7 mmol) afforded, after purification by column chromatography (SiO2: 10 to 25% methanol:methylene chloride), 3.10 g (73%) of the title compound.

reactant | 2-amino-N-(5-chloropyridin-2-yl)-5-methoxycarbonylbenzamide | 10.6 mmol, 3.23 g | NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1)C(=O)OC | C14H12ClN3O3
reactant | 1-tert-butoxycarbonylpiperidine-4-carboxaldehyde | 11.7 mmol, 2.50 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
reactant | borane trimethylamine complex | 31.7 mmol, 2.31 g | [B-][N+](C)(C)C | C3H9BN
product | N-(5-Chloropyridin-2-yl)-5-methoxycarbonyl-2-[(4-piperidinylmethyl)amino]benzamide | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)C(=O)OC)NCC1CCNCC1)=O | C20H23ClN4O3
